US04997840
A mixture of 1-methyl-4-oxo-1,4-dihydroquinol-3-yl benzoate (45 g), piperidine (16.9 ml) and dichloromethane (700 ml) was stirred for 3 days at ambient temperature under nitrogen. A further portion of piperidine (3 ml) was added and the stirring continued for 1 day. The solvent was removed by distillation at 50° and the residue was triturated with diethyl ether (300 ml). The resultant solid was collected by filtration and washed with diethyl ether (2×100 ml) to give 3-hydroxy-1-methyl-4-quinolone, m.p. 243°-246°.

reactant | 1-methyl-4-oxo-1,4-dihydroquinol-3-yl benzoate | 45 g | C(C1=CC=CC=C1)(=O)OC1=CN(C2=CC=CC=C2C1=O)C | C17H13NO3
reactant | piperidine | 16.9 ml | N1CCCCC1 | C5H11N
reactant | piperidine | 3 ml | N1CCCCC1 | C5H11N
solvent | dichloromethane | 700 ml | ClCCl | CH2Cl2
product | 3-hydroxy-1-methyl-4-quinolone | OC1=CN(C2=CC=CC=C2C1=O)C | C10H9NO2
